US07141564B2
(a) 3-Methyl-2-oxo-2,3-dihydro-benzooxazole-6-carbaldehyde
3-Methyl-3H-benzooxazol-2-one (2.00 g, 13.42 mmol) and hexamethylenetetramine (3.76 g, 26.84 mmol) were dissolved in trifluoroacetic acid (20 mL) and heated at reflux for 20 hours. The volatiles were removed in vacuo and the residue was treated with ice water (60 mL). The resultant mixture was stirred for 30 minutes and then made basic with sodium carbonate. The solid was isolated by filtration and washed with water then dried under vacuum. The solid was purified by column chromatography on silica gel eluting with an ethyl acetate and hexane solvent gradient. This provided the desired product as a white solid (1.07 g, 45%).

reactant | 3-Methyl-3H-benzooxazol-2-one | 13.42 mmol, 2.00 g | CN1C(OC2=C1C=CC=C2)=O | C8H7NO2
reactant | hexamethylenetetramine | 26.84 mmol, 3.76 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Methyl-2-oxo-2,3-dihydro-benzooxazole-6-carbaldehyde | 1.07 g, 45% | CN1C(OC2=C1C=CC(=C2)C=O)=O | C9H7NO3
